US06642402B2
A magnesium slurry was produced by adding 45.62 g of minus 100 (−100) mesh magnesium powder (made by READE) (1.88 moles, 3 equivalents) slowly to a 5 liter vessel containing 1.2L of ethanol (Filmex) at room temperature (25° C.). 323.00 g of 76.8% pure cyclopentadiene (3.75 moles) at a temperature of about −50° C. was added to the magnesium slurry, which was at room temperature, through an addition funnel. To this, a 0.35M solution of RuCl3*1.8H2O in ethanol (Filmex) (0.625 moles in 1.8L of ethanol) was added over a 2.5 hour time period, via addition funnel, between −10° C. and 10° C. The slurry turned sequentially from a grey color to brown to green to blue, and then back to grey/brown as each addition of ruthenium trichloride was made. The mixture was then stirred at a temperature of from 5° C. to 10° C. for 3 hours, and was then stirred out to room temperature overnight. The ethanol was then distilled off under rough pump, and about three to four liters of toluene was added back. The distillation was switched from rough pump to atmospheric pressure and was continued until a pot temperature of 110° C. was reached. The yellow solution was hot filtered (100° C.) through a cake of Celite® that had been washed with hot toluene (100° C.). The filtrate was concentrated by distillation until the yellow solution reached a volume of 650 mL. The yellow product crystallized out of the toluene solution as it cooled to room temperature. The yellow slurry was further cooled in a dry ice/acetone bath, and the light yellow crystalline solids were filtered on to a Buchner funnel, washed with 100 mL of hexane, and pumped dry giving 134.3 g of ruthenocene (93% yield from first crop).

reactant | magnesium | 1.88 moles, 3 equivalents | [Mg] | Mg
reactant | cyclopentadiene | 3.75 moles, 323.00 g | C1=CC=CC1 | C5H6
reactant | ruthenium trichloride | [Ru](Cl)(Cl)Cl
solvent | ethanol | 1.2L | C(C)O | C2H6O
solvent | ethanol | 0.625 moles, 1.8L | C(C)O | C2H6O
product | ruthenocene | 134.3 g, 93% yield | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ru+2] | InChI=1S/2C5H5.Ru/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
